US07547783B2
Preparation of 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-[1-(4-hydroxy-3,5-diphenylphenylimino)ethyl]pyridine
The title compound was prepared by condensation of 4-hydroxy-3,5-diphenylaniline with 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-acetylpyridine, prepared according to the method disclosed in WO02/28805, in toluene, using 4 Å molecular sieves, similarly to the above-described preparation of 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-[1-(4-propoxy-3,5-diphenylphenylimino)ethyl]pyridine.

reactant | 4-hydroxy-3,5-diphenylaniline | OC1=C(C=C(N)C=C1C1=CC=CC=C1)C1=CC=CC=C1 | C18H15NO
reactant | 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-acetylpyridine | CC1=C(C(=CC(=C1)C)C)N=C(C)C1=NC(=CC=C1)C(C)=O | C18H20N2O
reactant | 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-[1-(4-propoxy-3,5-diphenylphenylimino)ethyl]pyridine | CC1=C(C(=CC(=C1)C)C)N=C(C)C1=NC(=CC=C1)C(C)=NC1=CC(=C(C(=C1)C1=CC=CC=C1)OCCC)C1=CC=CC=C1 | C39H39N3O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-[1-(4-hydroxy-3,5-diphenylphenylimino)ethyl]pyridine | CC1=C(C(=CC(=C1)C)C)N=C(C)C1=NC(=CC=C1)C(C)=NC1=CC(=C(C(=C1)C1=CC=CC=C1)O)C1=CC=CC=C1 | C36H33N3O
